US04374988
A mixture of 0.01 mol of 3-dimethylamino-1-(2-thienyl)-2-propen-1-one (prepared as described in Example 1, Part A), 0.01 mol of 4amino-5-imidazolecarboxamide hydrochloride and 0.01 mol of anhydrous sodium acetate in 25 ml. of glacial acetic acid can be refluxed for 16 hours. The reaction mixture can be cooled and the crystalline precipitate collected by filtration and washed with water to produce 4-(2-thienyl)imidazo[1,5-a]pyrimidine-8-carboxamide.

reactant | 3-dimethylamino-1-(2-thienyl)-2-propen-1-one | 0.01 mol | CN(C=CC(=O)C=1SC=CC1)C | C9H11NOS
reactant | 4amino-5-imidazolecarboxamide hydrochloride | 0.01 mol | Cl.NC=1N=CNC1C(=O)N
reactant | sodium acetate | 0.01 mol | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(2-thienyl)imidazo[1,5-a]pyrimidine-8-carboxamide | S1C(=CC=C1)C1=CC=NC=2N1C=NC2C(=O)N | C11H8N4OS
